US07985751B2
1-[2-(3-Methylphenyl)ethyl]-4-(3-phenylpropyl)piperazine dihydrochloride
To the solution of bis(2-chloroethyl)-(3-phenylpropyl)ammonium chloride (1.78 g, 6 mmol) and 2-(3-methylphenyl)ethanamine (0.811 g, 6 mmol) in 8 mL of DMF is added anhydrous potassium carbonate (2.48 g, 18 mmol) and sodium iodide (1.80 g, 12 mmol) successively. The reaction mixture is then stirred at 80° C. for 4 hours and then cooled to ambient temperature. Water and ethyl acetate are then added to the resultant reaction mixture. The organic layer is separated, washed 3 times with water and once with brine, dried over anhydrous magnesium sulfate, and concentrated. The residue is dissolved in ethanol. To this solution is added 6 N hydrochloric acid drop wise with cooling until pH 3. The resulting solution is maintained at 4° C. overnight. The resultant crystals are collected by filtration and washed with ether to give 97 mg of the title compound (5%).

reactant | bis(2-chloroethyl)-(3-phenylpropyl)ammonium chloride | 6 mmol, 1.78 g | [Cl-].ClCC[NH+](CCCC1=CC=CC=C1)CCCl
reactant | 2-(3-methylphenyl)ethanamine | 6 mmol, 0.811 g | CC=1C=C(C=CC1)CCN | C9H13N
reactant | potassium carbonate | 18 mmol, 2.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 12 mmol, 1.80 g | [I-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-[2-(3-Methylphenyl)ethyl]-4-(3-phenylpropyl)piperazine dihydrochloride | 97 mg, 5% | Cl.Cl.CC=1C=C(C=CC1)CCN1CCN(CC1)CCCC1=CC=CC=C1 | InChI=1S/C22H30N2.2ClH/c1-20-7-5-10-22(19-20)12-14-24-17-15-23(16-18-24)13-6-11-21-8-3-2-4-9-21;;/h2-5,7-10,19H,6,11-18H2,1H3;2*1H
